US04880835
100 g Sulindac is suspended in 4 l. of 75% v/v ethanol. Apply heat until a clear solution is formed. Add 10.38 g of calcium hydroxide and mix. A clear solution is formed initially followed by massive precipitation of calcium sulindac. Filter the slurry to remove the solvent and air dry to give calcium sulindac.

reactant | Sulindac | 100 g | CC\1=C(C=2C=C(C=CC2/C1=C\C=3C=CC(=CC3)[S+](C)[O-])F)CC(=O)O | C20H17FO3S
reactant | calcium hydroxide | 10.38 g | [OH-].[Ca+2].[OH-]
solvent | ethanol | C(C)O | C2H6O
product | calcium sulindac | [Ca].CC\1=C(C=2C=C(C=CC2/C1=C\C=3C=CC(=CC3)[S+](C)[O-])F)CC(=O)O | InChI=1S/C20H17FO3S.Ca/c1-12-17(9-13-3-6-15(7-4-13)25(2)24)16-8-5-14(21)10-19(16)18(12)11-20(22)23;/h3-10H,11H2,1-2H3,(H,22,23);/b17-9-;
